US07183276B2
A mixture of 3-[2-amino-4-(4-chlorophenyl)-5-thiazolyl)-N-[4-(diethylphosphonomethyl)phenyl]propionamide (400 mg), tert-butyl isocyanate (780 mg) and toluene (10 ml) was stirred at 70–80° C. for 20 hrs. The reaction mixture was concentrated. The residue was purified by silica gel column chromatography and 3-(4-(4-chlorophenyl)-2-([(tert-butylamino)carbonyl]amino}-5-thiazolyl)-N-[4-(diethylphosphonomethyl)phenyl]propionamide was obtained as crystals (395 mg, yield: 83%) from a fraction eluted with 3% methanol-ethyl acetate. Recrystallization from ethyl acetate gave colorless prism crystals. melting point: 180–181° C.

reactant | 3-[2-amino-4-(4-chlorophenyl)-5-thiazolyl)-N-[4-(diethylphosphonomethyl)phenyl]propionamide | 400 mg | NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)NC1=CC=C(C=C1)CP(=O)(OCC)OCC | C23H27ClN3O4PS
reactant | tert-butyl isocyanate | 780 mg | C(C)(C)(C)N=C=O | C5H9NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-(4-chlorophenyl)-2-([(tert-butylamino)carbonyl]amino}-5-thiazolyl)-N-[4-(diethylphosphonomethyl)phenyl]propionamide | ClC1=CC=C(C=C1)C=1N=C(SC1CCC(=O)NC1=CC=C(C=C1)CP(=O)(OCC)OCC)NC(=O)NC(C)(C)C | C28H36ClN4O5PS
